US08809267B2
1-Sulfamoyloxy-cyclopropanecarboxylic acid methyl ester was synthesized according to the method presented in the synthesis of sulfamic acid phenyl ester in Example 1 with the exception of utilizing 1-hydroxy-cyclopropanecarboxylic acid methyl ester to obtain 1-Sulfamoyloxy-cyclopropanecarboxylic acid methyl ester.

reactant | sulfamic acid phenyl ester | C1(=CC=CC=C1)OS(N)(=O)=O | C6H7NO3S
reactant | 1-hydroxy-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)O | C5H8O3
product | 1-Sulfamoyloxy-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)OS(N)(=O)=O | C5H9NO5S
